US05032165
Preparation of 4-chloro-3-(2,4-dichloro-5-mercaptophenyl)-1-methyl-5-methylthio-1H-pyrazole (compound No. 15)
A mixture of 4-chloro-3-(5-chlorosulfonyl-2,4-dichlorophenyl)-1-methyl-5-methylthio-1H-pyrazole (7.71 g, 19 mmoles), 80 ml glacial acetic acid, and zinc dust (24.8 g, 380 mmoles) was subjected to reaction under reflux for 3.5 hours. The resulting solution was poured into ice-cold water, and the objective product was extracted with ethyl acetate. The extract solution was washed with water, dehydrated, and concentrated, giving the title compound (5.75 g) as oily matter, yield 89.1%.

reactant | 4-chloro-3-(5-chlorosulfonyl-2,4-dichlorophenyl)-1-methyl-5-methylthio-1H-pyrazole | 19 mmoles, 7.71 g | ClC=1C(=NN(C1SC)C)C1=C(C=C(C(=C1)S(=O)(=O)Cl)Cl)Cl | C11H8Cl4N2O2S2
catalyst | zinc | 380 mmoles, 24.8 g | [Zn] | Zn
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-3-(2,4-dichloro-5-mercaptophenyl)-1-methyl-5-methylthio-1H-pyrazole | 5.75 g, yield 89.1% | ClC=1C(=NN(C1SC)C)C1=C(C=C(C(=C1)S)Cl)Cl | C11H9Cl3N2S2
